US06498196B1
Step 2: 1,1-Diethyl-7-methoxy-3,4-dihydro-1H-naphthalen-2-one oxime (B)
1,1-diethyl-7-methoxy-3,4-dihydro-1H-naphthalen-2-one (4.40 g, 18.96 mmol) in dry pyridine (20 mL) with the hydroxylamine hydrochloride salt (10.54 g, 151.7 mmol) was heated to 80 ° C. for one day. The mixture was cooled down to r.t., then the pyridine was removed under vaccum. The green gum was dissolved with AcOEt, washed with H2O, HCl 10%, H2O, brine, dried over MgSO4 and filtered through a small silica pad. The crude compound was used without any other purification (4.69 g, 100%). 1H NMR (CDCl3): 7.94 (1H, s, OH), 7.06 (1H, d, J=8 Hz, H5), 6.84 (1H, d, J=2.5 Hz, H8), 6.73 (1H, dd, J=2.5 and 8 Hz, H6), 3.83 (3H, s, OCH3), 2.80-2.75 (4H, m, PhCH2CH2), 2.08 (2H, m, CH2), 1.85 (2H, m, CH2), 0.68 (6H, t, J=7.5 Hz, CH3).

reactant | 1,1-diethyl-7-methoxy-3,4-dihydro-1H-naphthalen-2-one | 18.96 mmol, 4.40 g | C(C)C1(C(CCC2=CC=C(C=C12)OC)=O)CC | C15H20O2
reactant | hydroxylamine hydrochloride salt | 151.7 mmol, 10.54 g | Cl.NO
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 1,1-Diethyl-7-methoxy-3,4-dihydro-1H-naphthalen-2-one oxime | C(C)C1(C(CCC2=CC=C(C=C12)OC)=NO)CC | C15H21NO2
